US05527905
Sodium 2-oxoazetidine-4,4-dicarboxylate
1l(c) 5.72 g of diethyl 2-oxoazetidine-4,4-dicarboxylate (prepared as described above) were dissolved in 25 ml of methanol. 53.2 ml of a 1N aqueous solution of sodium hydroxide were added to the resulting solution, and the mixture was stirred at room temperature for 1 day. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure to give crystals, which were washed with methanol and with diethyl ether to give 5.3 g of the title compound as crystals.

reactant | diethyl 2-oxoazetidine-4,4-dicarboxylate | 5.72 g | O=C1NC(C1)(C(=O)OCC)C(=O)OCC | C9H13NO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | Sodium 2-oxoazetidine-4,4-dicarboxylate | 5.3 g | O=C1NC(C1)(C(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C5H5NO5.2Na/c7-2-1-5(6-2,3(8)9)4(10)11;;/h1H2,(H,6,7)(H,8,9)(H,10,11);;/q;2*+1/p-2
